US09315542B2
(2R,4S)-2-Hydroxy-4-((S)-3-methoxy-2-((S)-3-methoxy-2-(2-methylthiazole-5-carboxamido)propanamido)propanamido)-2-methyl-3-oxo-5-phenylpentyl 3,4-difluorobenzenesulfonate
Prepared according to procedures described above, by reacting 3,4-difluorobenzenesulfonyl chloride with N—((S)-1-(((S)-1-(((2S,4R)-4,5-dihydroxy-4-methyl-3-oxo-1-phenylpentan-2-yl)amino)-3-methoxy-1-oxopropan-2-yl)amino)-3-methoxy-1-oxopropan-2-yl)-2-methylthiazole-5-carboxamide. MS for C31H36F2N4O10S2 m/z: 727 (M+H)+.

reactant | 3,4-difluorobenzenesulfonyl chloride | FC=1C=C(C=CC1F)S(=O)(=O)Cl | C6H3ClF2O2S
reactant | N—((S)-1-(((S)-1-(((2S,4R)-4,5-dihydroxy-4-methyl-3-oxo-1-phenylpentan-2-yl)amino)-3-methoxy-1-oxopropan-2-yl)amino)-3-methoxy-1-oxopropan-2-yl)-2-methylthiazole-5-carboxamide | O[C@@](C([C@H](CC1=CC=CC=C1)NC([C@H](COC)NC([C@H](COC)NC(=O)C1=CN=C(S1)C)=O)=O)=O)(CO)C | C25H34N4O8S
product | (2R,4S)-2-Hydroxy-4-((S)-3-methoxy-2-((S)-3-methoxy-2-(2-methylthiazole-5-carboxamido)propanamido)propanamido)-2-methyl-3-oxo-5-phenylpentyl 3,4-difluorobenzenesulfonate | FC=1C=C(C=CC1F)S(=O)(=O)OC[C@@](C([C@H](CC1=CC=CC=C1)NC([C@H](COC)NC([C@H](COC)NC(=O)C1=CN=C(S1)C)=O)=O)=O)(C)O | C31H36F2N4O10S2
